US09108977B2
To a suspension of 2 g of 3-(2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)propionic acid in 40 ml of t-butanol were added 2.1 ml of DPPA and 2.6 ml of triethylamine, followed by heating and refluxing at 100° C. for 18 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (elution solvent: chloroform-MeOH) to obtain 1.832 g of t-butyl[2-(2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)ethyl]carbamate as an orange solid.

reactant | 3-(2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)propionic acid | 2 g | O=C1NC2=CC(=CC=C2CC1)CCC(=O)O | C12H13NO3
reactant | DPPA | 2.1 ml | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.6 ml | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 40 ml | C(C)(C)(C)O | C4H10O
product | t-butyl[2-(2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)ethyl]carbamate | 1.832 g | C(C)(C)(C)OC(NCCC1=CC=C2CCC(NC2=C1)=O)=O | C16H22N2O3
